US07923456B2
Step 1: 5-(4-Bromo-2-fluorophenylamino)imidazo[1,5-a]pyrazine-6-carboxylic acid
The desired compound was prepared in an analogous fashion to 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid, using 5-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester as the starting material.

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid | FC1=C(C=CC(=C1)I)NC1=C(N=CC=2N1C=NC2)C(=O)O | C13H8FIN4O2
reactant | 5-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester | COC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2 | C14H10BrFN4O2
product | 5-(4-Bromo-2-fluorophenylamino)imidazo[1,5-a]pyrazine-6-carboxylic acid | BrC1=CC(=C(C=C1)NC1=C(N=CC=2N1C=NC2)C(=O)O)F | C13H8BrFN4O2
